US07507736B2
4-[5-(1-Isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid dimethylamide
The title compound was prepared in analogy to example 51, from [5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride and N,N-dimethylcarbamoyl chloride. Off-white solid. MS (m/z): 442.3 (M+H)+.

reactant | [5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride | Cl.Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)N1CCNCC1
reactant | N,N-dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | 4-[5-(1-Isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C)C | C24H35N5O3
